US07238808B2
{3-[7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-phenyl}-methanol
The title compound was prepared from 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.1) (355 g, 1.0 mmol) and commercially available 3-bromobenzyl alcohol (243 mg, 1.3 mmol) according to general procedure II. Obtained as a brown solid (60 mg, 13%). MS (ISP) 462.2 [(M+H)+]; mp 177° C.

reactant | 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 355 g | C(#C)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C16H7F6N3
reactant | 3-bromobenzyl alcohol | 1.3 mmol, 243 mg | BrC=1C=C(CO)C=CC1 | C7H7BrO
product | {3-[7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-phenyl}-methanol | FC(C1=CC(=NC=2N1N=CC2C#CC=2C=C(C=CC2)CO)C2=CC=C(C=C2)C(F)(F)F)(F)F | C23H13F6N3O
